US03953461
139.5 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester (0.5 Mol.) are dissolved in about 500 ml. of methanol. 60 g. of triethylamine are added and the solution is heated at reflux temperature. At this point, 36.5 g. of n-butylamine are added dropwise. After the addition is completed, the heating is continued for ten minutes. The solvent is then removed in vacuo and 500 ml. of ethyl acetate are added to the residue. The triethylamine hydrochloride is filtered off and the solvent evaporated. The resulting yellow oil is crystallized with 300 ml. of methanol to give 4-butylamino-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester, yield 110 g. (70%), m.p. 33°-35° (methanol).

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | 0.5 Mol | ClC1=C(C(=NC(=C1[N+](=O)[O-])Cl)C)C(=O)OCC | C9H8Cl2N2O4
reactant | methanol | CO | CH4O
reactant | n-butylamine | C(CCC)N | C4H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-butylamino-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | C(CCC)NC1=C(C(=NC(=C1[N+](=O)[O-])Cl)C)C(=O)OCC | C13H18ClN3O4
